US07538114B2
A mixture of tert-butyl 2-((R)-4-((S)-(4-bromophenyl)(phenyl)methyl)-2-methyl-piperazin-1-yl)acetate (459 mg, 0.1 mmol, its preparation follows the general procedures of Reference G), 1-phenylethyne (0.137 ml, 1.249 mmol), tetrabutylammonium fluoride trihydrate (946 mg, 2.997 mmol) and dichlorobis(triphenylphosphine)palladium(ii) (21.0 mg, 0.030 mmol) was heated at 80° C. under N2 atmosphere for 1 h. The residue was subjected to flash chromatography (SiO2, hexane to hexane/EtOAc=100:10 to 100:15 to 100:20) to give tert-butyl 2-((R)-2-methyl-4-((S)-phenyl(4-(2-phenylethynyl)phenyl)methyl)-piperazin-1-yl)acetate (460 mg) as a yellow oil.

reactant | tert-butyl 2-((R)-4-((S)-(4-bromophenyl)(phenyl)methyl)-2-methyl-piperazin-1-yl)acetate | BrC1=CC=C(C=C1)[C@@H](N1C[C@H](N(CC1)CC(=O)OC(C)(C)C)C)C1=CC=CC=C1 | C24H31BrN2O2
reactant | 1-phenylethyne | 1.249 mmol, 0.137 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | tetrabutylammonium fluoride trihydrate | 2.997 mmol, 946 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hexane | CCCCCC | C6H14
catalyst | dichlorobis(triphenylphosphine)palladium(ii) | 0.030 mmol, 21.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | tert-butyl 2-((R)-2-methyl-4-((S)-phenyl(4-(2-phenylethynyl)phenyl)methyl)-piperazin-1-yl)acetate | 460 mg | C[C@H]1N(CCN(C1)[C@H](C1=CC=C(C=C1)C#CC1=CC=CC=C1)C1=CC=CC=C1)CC(=O)OC(C)(C)C | C32H36N2O2
